US03954742
Following the procedure of Example 2, a mixture of 166 grams (1 mole) of isophthalic acid, 295 grams (2.5 moles) of 1,4-dioxanemethanol, 100 milliliters of benzene and 0.1 gram of p-toluenesulfonic acid catalyst gives an 86 percent yield of the white, waxy bis-1,4-dioxanemethanol isophthalate.

reactant | isophthalic acid | 1 mole, 166 grams | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | 1,4-dioxanemethanol | 2.5 moles, 295 grams | O1C(COCC1)CO | C5H10O3
catalyst | p-toluenesulfonic acid | 0.1 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
product | bis-1,4-dioxanemethanol isophthalate | 86 percent yield | C(C1=CC(C(=O)O)=CC=C1)(=O)O.O1C(COCC1)CO.O1C(COCC1)CO | InChI=1S/C8H6O4.2C5H10O3/c9-7(10)5-2-1-3-6(4-5)8(11)12;2*6-3-5-4-7-1-2-8-5/h1-4H,(H,9,10)(H,11,12);2*5-6H,1-4H2
